US05696119
A solution of the product of Part B (27.0 g, 0.095 moles), ethyl acetate (215 mL), conc HCl (12 drops) and Pd/C (1.7 g) was shaken on a Parr hydrogenator for 3.5 hours, after which TLC (60:40 hexane/EtOAc; Rf 0.36) indicated the reaction was complete. The mixture was filtered through celite, washed with EtOAc, and evaporated to an amber oil. The oil was dissolved in EtOAc, dried over MgSO4, filtered through celite and MgSO4, and evaporated to a clear filtrate and dried under high vacuum to afford methyl (R)-(+) 2-(4-hydroxyphenoxy)propanoate (18.5 g, 100% yield). A mixture of methyl (R)-(+) 2-(4-hydroxyphenoxy)propanoate (18.5 g, 0.094 moles), 2,7-dichloroquinoxaline (14.5 g, 0.073 mole), and powdered potassium carbonate (13.3 g, 0.964 mole) in dry acetone (170 mL) was refluxed overnight. When a TLC showed the reaction was complete (Rf 0.30, 1:1 hexane:EtOAc), the mixture was filtered and washed with acetone, dried with MgSO4, and evaporated to dryness to a beige solid. This was purified by several silica gel columns (80:20 hexane:EtOAc, then 75:25 hexane:EtOAc) to obtain a fluffy white solid which was recrystallized repeatedly from hexane to afford methyl (R)-(+) 2-[4-(7-chloroquinoxalinyloxy)phenoxy]propionate as a solid: mp 80° C. 1H NMR (CDCl3) δ8.65 (s), 7.97 (d, J=9 Hz, 1H), 7.75 (d, J=2 Hz, 1H), 7.54 (dd, J=2 Hz, 9 Hz, 1H), 7.18 (m, 2H), 6.95 (m, 2H), 4.80 (q, J=7 Hz, 1H), 3.80 (s, 3H), 1.66 (d, J=7 Hz, 3H). [α]D25 =+40.43. MS calc 358.78, found 358.78. Anal Calcd for C18H15N2O4Cl: C, 60.26; H, 4.21; N, 7.81. Found: C, 60.16; H, 4.10; N, 7.68.

reactant | methyl (R)-(+) 2-(4-hydroxyphenoxy)propanoate | 0.094 moles, 18.5 g | OC1=CC=C(O[C@@H](C(=O)OC)C)C=C1 | C10H12O4
reactant | 2,7-dichloroquinoxaline | 0.073 mole, 14.5 g | ClC1=NC2=CC(=CC=C2N=C1)Cl | C8H4Cl2N2
reactant | potassium carbonate | 0.964 mole, 13.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | acetone | 170 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (R)-(+) 2-[4-(7-chloroquinoxalinyloxy)phenoxy]propionate | ClC1=CC=C2N=CC(=NC2=C1)OC1=CC=C(O[C@@H](C(=O)OC)C)C=C1 | C18H15ClN2O4
